US07906517B2
Ethyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-ethylamino-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate (200 mg) and triethylamine (51 μl) are dissolved in methylene chloride (1 ml), and thereto is added triphosgene (36 mg) in a small amount at room temperature. The reaction solution is stirred at room temperature for 10 minutes and concentrated under reduced pressure. The residue is dissolved in tetrahydrofuran (1 ml) and therero is added a 2M ethylamine in tetrahydrofuran (1 ml) and the mixture is stirred at room temperature for 30 minutes. To the reaction solution are added ethyl acetate and a 1N-hydrochloric acid, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=9:1→1:1) to give ethyl 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(1,3-diethylureido)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate (181 mg). MS (m/z): 724 [M+H]+

reactant | Ethyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-ethylamino-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate | 200 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OCC)CC2=C(C=CC(=C2)C(F)(F)F)NCC)C=C(C1)C(F)(F)F)(F)F | C29H29F9N4O3
reactant | triethylamine | 51 μl | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 36 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | ethyl 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(1,3-diethylureido)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate | 181 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OCC)CC2=C(C=CC(=C2)C(F)(F)F)N(C(=O)NCC)CC)C=C(C1)C(F)(F)F)(F)F | C32H34F9N5O4
